### ISSUE TITLE
Equality of  `+ 1` and `Nat.succ` in the presence of extra `+`

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover/lean4#2136]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Syntactic (?) equality is inconsistent in whether to identify `Nat.succ a` with `a + 1`.  This seems to happen when there are other `+` around.

### Steps to Reproduce

```lean
opaque zero : Nat → Nat
theorem foo : zero (Nat.succ a) = 0 := sorry
example : zero (a + 1) = 0 := by with_reducible exact foo -- ok
example : zero (a + a + 1) = 0 := by with_reducible exact foo -- fail
```

**Expected behavior:**

Both examples should succeed.

**Actual behavior:**

Failure in the second example, 
```text
type mismatch
  foo
has type
  zero (Nat.succ ?m.267) = 0 : Prop
but is expected to have type
  zero (a + a + 1) = 0 : Prop
```

**Reproduces how often:** 100%

### Versions

Nightly 2023-02-24

### Additional Information

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Failed.20rewrite.20by.20equation.20lemmas)

Another example, in which this causes a failure to rewrite by an equation lemma for a recursive definition:
```lean
def factorial : Nat → Nat
  | 0 => 1
  | n + 1 => (n + 1) * factorial n

example (a : Nat) : factorial (a + 1) = (a + 1) * factorial a := by
  rw [factorial] -- works

example (a b : Nat) : factorial ((a + b) + 1) = ((a + b) + 1) * factorial (a + b) := by
  rw [factorial] -- fails
```

**Comment by gebner** [comment]
This is a bug in offset unification.  `a + 1` is recognized as an offset, but not `a + a + 1` because `getOffsetAux` bails at `a + a`  (which is not an offset).
